US06225318B1
6-Pyridin-3-yl-3H-quinazolin-4-one
6-Iodo-3H-quinazolin-4-one (4.0 gm, 14.7 mmol), 3-diethylborate pyridine (1.72 gm, 11.75), potassium hydroxide (2.63 gm, 46.95 mmol), tetrabutyl ammonium iodide (2.16 gm, 5.87 mmol) and tetrakis[triphenyl-phosphine] palladium (680 mg, 0.586 mmol) were combined in 70 mL of anhydrous THF and refluxed for 24 hours. The reaction was neutralized with 1.83 mL of acetic acid and filtered product off as a black precipitate. The precipitate was washed with water and THF and then chromatographed on silica gel using 1% pyridine/5% MeCH/CH2Cl2. 1.29 gm (39%) of a pale yellow solid product was obtained.

reactant | 6-Iodo-3H-quinazolin-4-one | 14.7 mmol, 4.0 gm | IC=1C=C2C(NC=NC2=CC1)=O | C8H5IN2O
reactant | potassium hydroxide | 46.95 mmol, 2.63 gm | [OH-].[K+]
reactant | acetic acid | 1.83 mL | C(C)(=O)O | C2H4O2
catalyst | tetrabutyl ammonium iodide | 5.87 mmol, 2.16 gm | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 70 mL | C1CCOC1 | C4H8O
catalyst | tetrakis[triphenyl-phosphine] palladium | 0.586 mmol, 680 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-Pyridin-3-yl-3H-quinazolin-4-one | 1.29 gm, 39% | N1=CC(=CC=C1)C=1C=C2C(NC=NC2=CC1)=O | C13H9N3O
